US08685980B2
Following General Procedure G, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and piperidine-1-carbonyl bromide (32 mL, 0.690 mmol) gave 7-cyclopentyl-2-{5-[4-(piperidine-1-carbonyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (83 mg, 64%). MS (ESI) m/z 546.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | piperidine-1-carbonyl bromide | 0.690 mmol, 32 mL | N1(CCCCC1)C(=O)Br | C6H10BrNO
product | 7-cyclopentyl-2-{5-[4-(piperidine-1-carbonyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 83 mg, 64% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(=O)N2CCCCC2)N1C1CCCC1)C | C29H39N9O2
